US04404203
2,3-Dihydro-3-oxo-6-phenyl-5-pyridazinecarboxylic acid is treated with ethyl chloroformate, triethylamine, and dimethylamine according to the procedure of Example 3 to give N,N-dimethyl-2,3-dihydro-3-oxo-6-phenyl-5-pyridazinecarboxamide. A solution of this amide (12.5 g) in 400 ml of tetrahydrofuran is treated with 100 ml of 1 M borane in tetrahydrofuran and the resulting mixture is heated under reflux for 4 hours, then cooled and treated with 5% sodium hydroxide (100 ml) and heated under reflux for 1 hour. The tetrahydrofuran is removed on the rotary evaporator and the pH of the residual liquid is adjusted with acetic acid followed by ammonium hydroxide to 10. The product is extracted into dichloromethane and the dichloromethane is filtered and concentrated on the rotary evaporator. The residue is chromatographed on silica gel with 2% methanol and chloroform to give 5-(dimethylaminomethyl)-6-phenyl-3(2H)-pyridazinone.

reactant | 2,3-Dihydro-3-oxo-6-phenyl-5-pyridazinecarboxylic acid | O=C1NN=C(C(=C1)C(=O)O)C1=CC=CC=C1 | C11H8N2O3
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | dimethylamine | CNC | C2H7N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N,N-dimethyl-2,3-dihydro-3-oxo-6-phenyl-5-pyridazinecarboxamide | CN(C(=O)C1=CC(NN=C1C1=CC=CC=C1)=O)C | C13H13N3O2
